US08349865B2
Step 2: 10-Ethoxypyrido[4,3-c]-1,6-naphthyridin-6-ol
4′-Amino-2-ethoxy-N,N-diisopropyl-3,3′-bipyridine-4-carboxamide was converted to methyl 2-(4-aminopyridin-3-yl)-3-ethoxybenzoate using the same procedure as shown in (Example 3, Step 2). The product was triturated with diethyl ether.

reactant | 4′-Amino-2-ethoxy-N,N-diisopropyl-3,3′-bipyridine-4-carboxamide | NC1=C(C=NC=C1)C=1C(=NC=CC1C(=O)N(C(C)C)C(C)C)OCC | C19H26N4O2
reactant | methyl 2-(4-aminopyridin-3-yl)-3-ethoxybenzoate | NC1=C(C=NC=C1)C1=C(C(=O)OC)C=CC=C1OCC | C15H16N2O3
product | 10-Ethoxypyrido[4,3-c]-1,6-naphthyridin-6-ol | C(C)OC1=NC=CC=2C(=NC3=CC=NC=C3C21)O | C13H11N3O2
